US09416144B2
Step 1: Preparation of 3-(5-bromo-4-methylpyridin-2-yl)oxazolidin-2-one (22a)
2-amino-4-methyl-5-bromo-pyridine (3 g, 16 mmol) and K2CO3 (5.5 g, 40 mmol) were added into acetonitrile (35 mL), cooled to 0° C. on ice-salts cooling bath. 2-chloroethyl chloroformate (2.75 g, 19.2 mmol) was added dropwise, and after its completion, the mixture was raised to room temperature, agitated for 1 hr, and refluxed under heat for 3 hrs. TLC (petroleum ether/ethyl acetate=3:1) was employed to monitor the reaction. After the starting materials completely reacted, acetonitrile was removed by evaporation. The resulting mixture was diluted by adding dichloromethane (100 mL), washed sequentially with water and saturated saline solution, and dried over anhydrous sodium sulfate. Column chromatography afforded 2.6 g of white solid, yield 63%.

reactant | 2-amino-4-methyl-5-bromo-pyridine | 16 mmol, 3 g | NC1=NC=C(C(=C1)C)Br | C6H7BrN2
reactant | K2CO3 | 40 mmol, 5.5 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 2-chloroethyl chloroformate | 19.2 mmol, 2.75 g | ClC(=O)OCCCl | C3H4Cl2O2
solvent | acetonitrile | 35 mL | C(C)#N | C2H3N
product | 3-(5-bromo-4-methylpyridin-2-yl)oxazolidin-2-one | 2.6 g, yield 63% | BrC=1C(=CC(=NC1)N1C(OCC1)=O)C | C9H9BrN2O2
